US07816522B2
(32a) 5-fluoro-8-methoxy-4H-benzo[1,3]dioxine
To a solution of the 6.1 g of 3-fluoro-2-hydroxymethyl-6-methoxyphenol in 90 ml of DMF there was added 3 g of sodium hydride (60% oily suspension) while cooling on ice, and the mixture was stirred at room temperature for 30 minutes. After adding 2.55 ml of bromochloromethane and 510 mg of sodium iodide to the reaction mixture, it was stirred at 80° C. for 6 hours under a nitrogen atmosphere. Saturated aqueous ammonium chloride was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (1.086 g).

reactant | 3-fluoro-2-hydroxymethyl-6-methoxyphenol | 6.1 g | FC=1C(=C(C(=CC1)OC)O)CO | C8H9FO3
reactant | sodium hydride | 3 g | [H-].[Na+]
reactant | bromochloromethane | 2.55 ml | BrCCl | CH2BrCl
reactant | sodium iodide | 510 mg | [I-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-8-methoxy-4H-benzo[1,3]dioxine | 1.086 g | FC1=CC=C(C2=C1COCO2)OC | C9H9FO3
